US09328110B2
By the general method of Example 11, 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine was hydrolyzed with aqueous hydrochloric acid to provide 5-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-4,4-dimethylpentan-2-one as a light brown solid after recrystallization from aqueous acetonitrile, mp 223-225° C.

reactant | 1-[2,2-dimethyl-3-(2-methyl-[1,3]dioxolan-2-yl)propyl]-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | CC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C)(CC2(OCCO2)C)C | C20H26N4O2
reactant | hydrochloric acid | Cl | ClH
product | 5-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)-4,4-dimethylpentan-2-one | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(CC(C)=O)(C)C)C | C18H22N4O
